US07084164B2
5-Biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole-3-thiol (2.7 g) was dissolved in acetonitrile (50 ml), followed by addition of methyl iodide (0.967 ml) and potassium carbonate (1.07 g), and stirred at ambient temperature for 3 hours. Water was added to the reaction solution, followed by extraction with chloroform. The organic layer was washed with saturated aqueous saline and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting solid was recrystallized from a mixture solvent of acetonitrile and ethyl acetate, to afford the entitled compound 3-biphenyl-4-yl-4-(2-fluorophenyl)-5-methylsulfanyl-4H-1,2,4-triazole as pale yellow crystal (2.03 g, 72%). The physico-chemical values are as follows.

reactant | 5-Biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole-3-thiol | 2.7 g | C1(=CC=C(C=C1)C=1N(C(=NN1)S)C1=C(C=CC=C1)F)C1=CC=CC=C1 | C20H14FN3S
reactant | methyl iodide | 0.967 ml | CI | CH3I
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-biphenyl-4-yl-4-(2-fluorophenyl)-5-methylsulfanyl-4H-1,2,4-triazole | 2.03 g, 72% | C1(=CC=C(C=C1)C1=NN=C(N1C1=C(C=CC=C1)F)SC)C1=CC=CC=C1 | C21H16FN3S
